US09340573B2
To a stirred solution of {(S)-1-[(S)-1-((S)-2-formyl-2,3-dihydro-pyrrolo[2,3-b]pyridine-1-carbonyl)-2-methyl-propylcarbamoyl]-ethyl}-methyl-carbamic acid tert-butyl ester (30 mg, 0.07 mmol) in dry MeOH (1.0 mL) was added 2-napthylamine (20 mg, 0.14 mmol) was the reaction was stirred at rt for 18 h. Acetic acid was added to adjust to pH ˜4. NaCNBH3 (8.7 mg, 0.139 mmol) was added and the reaction was stirred at rt for 18 h. The reaction mixture was concentrated in vacuo. The residue was taken up in EtOAc (25 mL) and washed with saturated aqueous NaHCO3 (10 mL×2), water (10 mL×2) and brine (4 mL×2) and concentrated in vacuo. The crude material was purified by preparative HPLC (X Bridge Prep C18 (250×19 0 mm) 5μ, acetonitrile and 5 mM NH4OAc) to give methyl-((S)-1-{(S)-2-methyl-1-[(S)-2-(naphthalen-2-ylaminomethyl)-2,3-dihydro-pyrrolo[2,3-b]pyridine-1-carbonyl]-propylcarbamoyl}-ethyl)-carbamic acid tert-butyl ester (32 mg), m/z=560 (M+H).

reactant | {(S)-1-[(S)-1-((S)-2-formyl-2,3-dihydro-pyrrolo[2,3-b]pyridine-1-carbonyl)-2-methyl-propylcarbamoyl]-ethyl}-methyl-carbamic acid tert-butyl ester | 0.07 mmol, 30 mg | C(C)(C)(C)OC(N(C)[C@@H](C)C(N[C@@H](C(C)C)C(=O)N1[C@@H](CC=2C1=NC=CC2)C=O)=O)=O | C22H32N4O5
reactant | 2-napthylamine | 0.14 mmol, 20 mg | C1=C(C=CC2=CC=CC=C12)N | C10H9N
reactant | Acetic acid | C(C)(=O)O | C2H4O2
reactant | NaCNBH3 | 0.139 mmol, 8.7 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 1.0 mL | CO | CH4O
product | methyl-((S)-1-{(S)-2-methyl-1-[(S)-2-(naphthalen-2-ylaminomethyl)-2,3-dihydro-pyrrolo[2,3-b]pyridine-1-carbonyl]-propylcarbamoyl}-ethyl)-carbamic acid tert-butyl ester | 32 mg | C(C)(C)(C)OC(N([C@@H](C)C(N[C@@H](C(C)C)C(=O)N1[C@@H](CC=2C1=NC=CC2)CNC2=CC1=CC=CC=C1C=C2)=O)C)=O | C32H41N5O4
